US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-(2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide
To a solution of 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0775 g, 0.264 mmol) in CH3CN/DCM/MeOH (2 mL/2 mL/1 mL) was added (2-bromoethyl)benzene (0.38 mL, 2.78 mmol). The solution was allowed to stir at room temperature for 4 days and then concentrated under vacuum to give a white solid. This residue was dissolved in DMSO and purified by preparatory HPLC to give the title compound (0.0612 g, 48.6%). EI-MS m/z 398(M+) Rt (2.06 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.264 mmol, 0.0775 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | (2-bromoethyl)benzene | 2.78 mmol, 0.38 mL | BrCCC1=CC=CC=C1 | C8H9Br
solvent | CH3CN DCM MeOH | 2 mL | CC#N.C(Cl)Cl.CO
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-[hydroxy(diphenyl)methyl]-1-(2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide | 0.0612 g, 48.6% | [Br-].OC(C12CC[N+](CC1)(CC2)CCC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C28H32NO.BrH/c30-28(25-12-6-2-7-13-25,26-14-8-3-9-15-26)27-17-21-29(22-18-27,23-19-27)20-16-24-10-4-1-5-11-24;/h1-15,30H,16-23H2;1H/q+1;/p-1
